US06191124B1
A solution of 6,7,8,9-Tetrahydro-5H-cyclohept[d]imidazo[2,1-b]thiazole-3-carboxylic acid ethyl ester (Formula G-4)(11.7 g) in THF (50 mL) was treated with LiAlH4 (2.24 g) at 0° and reacted at ambient temperature for 1.5 hours. The reaction was quenched by serial additions of water and 15% sodium hydroxide. The mixture was filtered and the filtrate was evaporated to yield crude 6,7,8,9-Tetrahydro-5H-cyclohept[d]imidazo[2,1-b]thiazole-3-methanol (Formula G-5). Crystallization of crude 6,7,8,9-Tetrahydro-5H-cyclohept[d]imidazo[2,1-b]thiazole-3-methanol (Formula G-5) from iso-propanol solution gave pure 6,7,8,9-Tetrahydro-5H-cyclohept [d]imidazo[2,1-b]thiazole-3-methanol (Formula G-5) (7.7 g) m.p. 145-146°.

reactant | 6,7,8,9-Tetrahydro-5H-cyclohept[d]imidazo[2,1-b]thiazole-3-carboxylic acid ethyl ester | 11.7 g | C(C)OC(=O)C1=CN=C2SC3=C(N21)CCCCC3 | C13H16N2O2S
reactant | LiAlH4 | 2.24 g | [H-].[H-].[H-].[H-].[Li+].[Al+3]
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | 6,7,8,9-Tetrahydro-5H-cyclohept [d]imidazo[2,1-b]thiazole-3-methanol | 7.7 g | N=1C=C(N2C1SC1=C2CCCCC1)CO | C11H14N2OS
